US04585780
1 3-Benzyloxy-2-methylpyrid-4-one (4 g) is dissolved in dry acetone (100 ml). Acetylbromide (3 g) and triethylamine (2.7 g) are added and the resulting mixture is mechanically stirred overnight. The mixture is then filtered and the filtrate is rotary evaporated to dryness. The residue is dissolved in methylene chloride and washed with dilute hydrochloric acid (pH 3.0), then twice with water, and is dried over Na2SO4 and rotary evaporated to yield a solid residue. Recrystallisation of this residue from an ethylacetate/hexane mixture gives 1-acetyl-3-benzyloxy-2-methylpyrid-4-one as an oil (3.1 g).

reactant | 3-Benzyloxy-2-methylpyrid-4-one | 4 g | C(C1=CC=CC=C1)OC1C(=NC=CC1=O)C | C13H13NO2
reactant | Acetylbromide | 3 g | C(C)(=O)Br | C2H3BrO
reactant | triethylamine | 2.7 g | C(C)N(CC)CC | C6H15N
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 1-acetyl-3-benzyloxy-2-methylpyrid-4-one | 3.1 g | C(C)(=O)N1C(=C(C(C=C1)=O)OCC1=CC=CC=C1)C | C15H15NO3
